US06784323B2
(R)-4-Benzyloxy-3-(4-methyl-1H-indol-3-yl)-butanal (Table 3, entry 5):
Prepared according to the general procedure from benzoic acid 4-benzyloxy-but-enal (143 mg, 0.750 mmol), 4-methyl-1H-indole (80.5 mg, 0.500 mmol), 2,4-dinitrobenzoic acid (21.2 mg, 0.100 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.90 mL) and isopropanol (0.10 mL) at −60° C. for 2.5 h to provide, after silica gel chromatography (15:85 EtOAc/hexanes), the title compound as a colorless oil (150 mg, 94% yield, 94% ee) after silica gel chromatography in 15% EtOAc/hexanes. IR (film) 3406, 2947, 2923, 2843, 2738, 1717, 1620, 1604, 1584, 1451, 1411, 1383, 1344, 1315, 1271, 1178, 1114, 1066, 1226, 969 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.82 (dd, J=2.1, 2.1 Hz, 1H, CHO), 8.14 (s, 1H, NH), 8.02 (dt, J=1.5, 7.2 Hz, 2H, ArH), 7.58 (tt, J=1.5, 6.6 Hz, 1H, ArH), 7.45 (tt, J=1.2, 6.9 Hz, 2H, ArH), 7.24-7.08 (m, 3H, ArH, NCH), 6.91 (dt, J=0.9, 7.2 Hz, 1H, ArH), 4.74 (dd, J=4.2, 10.5 Hz, 1H, CH2O), 4.52-4.43 (m, 1H, ArCH), 4.32 (dd, J=8.4, 10.8 Hz, 1H, CH2O), 3.05 (ddd, J=2.1, 6.9, 16.8 Hz, 1H, CH2CO); 2.95 (ddd, J=2.1, 7.8, 16.8 Hz, 1H, CH2CO), 2.82 (s, 3H, ArCH3); 13C NMR (75 MHz, CDCl3) δ 201.3, 166.3,136.5, 133.2, 130.5, 130.0, 129.7, 128.5, 125.1, 122.6, 122.1, 121.7, 115.8, 109.4, 68.9, 47.8, 31.7, 21.0; HRMS (CI) exact mass calcd for (C20H19NO3) requires m/z 321.1365, found m/z 321.1353. [α]D=−26.6 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AD and AD guard column (10:90 ethanol/hexanes, 1 mL/min); S isomer tr=47.8 min and R isomer tr=42.4 min.

reactant | benzoic acid 4-benzyloxy-but-enal | 0.750 mmol, 143 mg | C(C1=CC=CC=C1)OCC=CC=O.C(C1=CC=CC=C1)(=O)O
reactant | 4-methyl-1H-indole | 0.500 mmol, 80.5 mg | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | 2,4-dinitrobenzoic acid | 0.100 mmol, 21.2 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.90 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.10 mL | C(C)(C)O | C3H8O
product | (R)-4-Benzyloxy-3-(4-methyl-1H-indol-3-yl)-butanal | 150 mg, 94% yield | C(C1=CC=CC=C1)OC[C@H](CC=O)C1=CNC2=CC=CC(=C12)C | C20H21NO2
